US06774172B1
Into a glass reaction vessel provided with a thermometer, a stirrer, a dropping funnel, a nitrogen introduction tube and a reflux condenser are charged 336 parts of methoxy-6-ethylene glycol allyl ether (made by NOF Corporation), 98.0 parts of maleic anhydride, 6.0 parts of benzoyl peroxide and 566.0 parts of toluene. After an inside of the vessel is substituted with nitrogen with stirring, it is heated to 80° C. and this temperature is kept for 4 hours to progress the reaction. After toluene is distilled off at 110° C. under a reduced pressure of 10 mmHg, the inside is turned to a normal temperature and a normal pressure to obtain allyl ether-maleic anhydride copolymer having a weight average molecular weight of 27,000 (polyethylene glycol conversion).

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | allyl ether maleic anhydride | C(C=C)OCC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C6H10O.C4H2O3/c1-3-5-7-6-4-2;5-3-1-2-4(6)7-3/h3-4H,1-2,5-6H2;1-2H
